US06670373B1
In a fashion similar to that for preparation 15, 2,4-difluorobenzoyl chloride oxime (2.00 g, 10.4 mmol), ethyl 2-butynoate (1.76 g, 15.7 mmol), triethyl amine (2.9 ml, 21 mmol) in diethyl ether (10 ml), and diethyl ether 30 ml) gave 4-ethoxycarbonyl-5-methyl-3-(2,4-difluorophenyl)isoxazole (1.62 g, 58%) after column chromatography (silica gel, hexanes/diethyl ether gradient).

reactant | 2,4-difluorobenzoyl chloride oxime | 10.4 mmol, 2.00 g | FC1=C(C(Cl)=NO)C=CC(=C1)F | C7H4ClF2NO
reactant | ethyl 2-butynoate | 15.7 mmol, 1.76 g | C(C#CC)(=O)OCC | C6H8O2
reactant | triethyl amine | 21 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 4-ethoxycarbonyl-5-methyl-3-(2,4-difluorophenyl)isoxazole | 1.62 g, 58% | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=C(C=C1)F)F | C13H11F2NO3
